US07892834B2
(1) Synthesis of N-Methacryloylalanine
Sodium hydroxide (1.24 g) and L-alanine (2.76 g) were dissolved in pure water and, under cooling with ice, a solution where methacryloyl chloride (3 ml) was dissolved in THF (15 ml) and an aqueous solution (17 ml) containing sodium hydroxide (1.21 g) were simultaneously dropped thereinto. After that, the mixture was stirred at room temperature for 4 hours, acidified with 2M hydrochloric acid and extracted with ethyl acetate. The organic phase was dried, concentrated in vacuo, washed with ether and dried in vacuo to give the aimed product. Yield: 1.76 g (36%).

reactant | Sodium hydroxide | 1.24 g | [OH-].[Na+]
reactant | L-alanine | 2.76 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | methacryloyl chloride | 3 ml | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | sodium hydroxide | 1.21 g | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | water | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | N-Methacryloylalanine | C(C(=C)C)(=O)N[C@@H](C)C(=O)O | C7H11NO3
